US04283328
0.2 g (0.002 mole) of acetic anhydride was added to 3 ml of 32% hydrogen bromide in acetic acid, and the resulting mixture was allowed to stand at room temperature for 30 minutes. Thereto, 0.336 g (0.001 mole) of the azlactone of N-carbobenzoxyglycyldehydrophenylalanine was added and the resulting solution was stirred at room temperature. After 30 minutes, glyclydehydrophenylalanine hydrobromid precipitated. It was filtered and washed with anhydrous ether. Recrystallization from methanol-ethyl acetate yielded 0.290 g (91%) of glycyldehydrophenylalanine hydrobromide, mp 221°-223° (decomp.). The product was identical to that obtained from Example 9 (c)

reactant | acetic anhydride | 0.002 mole, 0.2 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrogen bromide | 3 ml | Br | BrH
reactant | N-carbobenzoxyglycyldehydrophenylalanine | C(=O)(OCC1=CC=CC=C1)NCC(=O)NC(=CC1=CC=CC=C1)C(=O)O | C19H18N2O5
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | glycyldehydrophenylalanine hydrobromide | 0.290 g, 91% | Br.NCC(=O)NC(=CC1=CC=CC=C1)C(=O)O | InChI=1S/C11H12N2O3.BrH/c12-7-10(14)13-9(11(15)16)6-8-4-2-1-3-5-8;/h1-6H,7,12H2,(H,13,14)(H,15,16);1H
